* C:\Users\lenov\Documents\GitHub\power_electronics-2025\Module 1 - Power Diodes and Rectifiers\Simulations\Simulations Repository\Circuit three-phase\Draft3.asc
* Generated by LTspice 24.1.9 for Windows.
V1 N002 0 SINE(0 120 60 0 0 0) Rser=0
V2 N003 0 SINE(0 120 60 0 0 -120) Rser=0
V3 N004 0 SINE(0 120 60 0 0 120) Rser=0
D1 N002 N001 MUR460
D2 0 N002 1N4007
D3 N003 N001 MUR460
D4 0 N003 MUR460
D5 0 N004 MUR460
D6 N004 N001 MUR460
R1 N001 0 100K tol=1 pwr=0.1
C1 N001 0 220µ V=400 Irms=3.22 Rser=0.1295 Lser=10.037n
.model D D
.lib C:\Users\lenov\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 0 100ms 0 10u
* Components\n1 capacitor 220uf - 400v\n1 resistor 100k ohms\n6 rectifiers MUR460
* In
* Out
.backanno
.end
